US07601844B2
In a sealed vial were added consecutively (R)-2-chloro-N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)acetamide (31.4 mg, 0.085 mmol), pyrazole (11.5 mg, 0.17 mmol), K2CO3 (35.2 mg, 0.26 mmol) and acetonitrile (0.4 mL). The reaction mixture was then heated at 75° C. for 36 h, cooled to rt., and the solids were filtered. The filtrate was concentrated and purified by preparative HPLC to provide Example 290, (R)—N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-2-(1H-pyrazol-1-yl)acetamide (32 mg, 94% yield) as a white solid. MS found: 403.3 (M+H).

reactant | (R)-2-chloro-N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)acetamide | 0.085 mmol, 31.4 mg | ClCC(=O)N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C | C18H24Cl2N2O2
reactant | pyrazole | 0.17 mmol, 11.5 mg | N1N=CC=C1 | C3H4N2
reactant | K2CO3 | 0.26 mmol, 35.2 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 0.4 mL | C(C)#N | C2H3N
product | (R)—N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-2-(1H-pyrazol-1-yl)acetamide | 32 mg, 94% yield | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H](C(C)C)NC(CN1N=CC=C1)=O)=O | C21H27ClN4O2
